US04565777
9.7 ml of thionyl chloride was added dropwise with stirring to 34.4 g of 2-(4-t-hexyl-2-chlorophenoxy)capric acid dissolved in 34 ml of toluene heated to 60° C. The reaction was carried out at 60° C. for 2 hours. Excess thionyl chloride and toluene were distilled off under reduced pressure. 40.1 g of 2-(4-t-hexyl-2-chlorophenoxy)capric acid chloride was obtained.

reactant | thionyl chloride | 9.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-t-hexyl-2-chlorophenoxy)capric acid | 34.4 g | C(C)(C)(CCC)C1=CC(=C(OC(C(O)=O)CCCCCCCC)C=C1)Cl | C22H35ClO3
solvent | toluene | 34 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-t-hexyl-2-chlorophenoxy)capric acid chloride | 40.1 g | C(C)(C)(CCC)C1=CC(=C(OC(C(=O)Cl)CCCCCCCC)C=C1)Cl | C22H34Cl2O2
